US08071595B2
To a stirred solution of 2,2-dimethyl-5-oxo-4-(4-(quinolin-2-ylmethoxy)phenyl)-2,5-dihydrofuran-3-yl trifluoromethanesulfonate (250 mg, 0.5 mol) in 1,4-Dioxane (10 mL) were added 4-methoxyphenylboronic acid (92 mg, 0.6 mol), Na2CO3 (127 mg, 1.5 mol) and water (4 mL) at RT under an inert atmosphere. The mixture was stirred for 30 min followed by addition of Pd(PPh3)4 (58 mg, 0.05 mol) and then refluxed for 16 h. The reaction mixture was diluted with water and extracted with EtOAc (2×100 mL). The combined organic layers were washed with water and brine, and then dried over Na2SO4 and concentrated in vacuo to afford 4-(4-methoxyphenyl)-5,5-dimethyl-3-(4-(quinolin-2-ylmethoxy)phenyl)furan-2(5H)-one-(40 mg, 18%) as a yellow solid. 1H NMR (500 MHz, d6-DMSO): δ 8.43-8.41 (m, 1H), 8.02-7.98 (m, 2H), 7.78 (t, J=7.8 Hz, 1H), 7.68-7.52 (m, 2H), 7.25-7.21 (m, 4H), 7.02-6.98 (m, 4H), 5.40 (s, 2H), 5.25 (s, 2H), 3.79 (s, 3H). MS: M+H: m/z=452.2; M+Na: m/z=474.3. HPLC: 91%, (Condition-B).

reactant | 2,2-dimethyl-5-oxo-4-(4-(quinolin-2-ylmethoxy)phenyl)-2,5-dihydrofuran-3-yl trifluoromethanesulfonate | 0.5 mol, 250 mg | FC(S(=O)(=O)OC=1C(OC(C1C1=CC=C(C=C1)OCC1=NC2=CC=CC=C2C=C1)=O)(C)C)(F)F | C23H18F3NO6S
reactant | 4-methoxyphenylboronic acid | 0.6 mol, 92 mg | COC1=CC=C(C=C1)B(O)O | C7H9BO3
reactant | Na2CO3 | 1.5 mol, 127 mg | C(=O)([O-])[O-].[Na+].[Na+]
solvent | 1,4-Dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
catalyst | Pd(PPh3)4 | 0.05 mol, 58 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 4 mL | O | H2O
product | 4-(4-methoxyphenyl)-5,5-dimethyl-3-(4-(quinolin-2-ylmethoxy)phenyl)furan-2(5H)-one- | 40 mg, 18% | COC1=CC=C(C=C1)C1=C(C(OC1(C)C)=O)C1=CC=C(C=C1)OCC1=NC2=CC=CC=C2C=C1 | C29H25NO4
